US08314117B2
(6S,9R)-6-(2,3-difluorophenyl)-6-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate.
In an oven-dried 100 mL round-bottom flask was dissolved (6S,9R)-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-6,9-diol (71 mg, 0.244 mmol) (azeotroped with dry benzene) and 4-nitrophenyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (121 mg, 0.317 mmol) in dimethylformamide (2 mL) to give a light yellow suspension under nitrogen. NaHMDS (0.926 mL, 0.926 mmol) was added dropwise. The resulting yellow suspension was stirred under nitrogen at room temperature for 3.5 h. LCMS showed complete conversion. The reaction was quenched with saturated sodium bicarbonate and diluted with ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate (LCMS showed no product left in the aqueous phase). The combined organic layers were washed with water, brine, dried with sodium sulfate, and concentrated to give a yellow oil. Purification by FCC up to 10% methanol/methylene chloride afforded the desired product (131 mg, 100%) as a white powder. LCMS and HPLC showed >99% purity. MS(ESI)[M+H+]=536.26; 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 11.31 (br. s., 1H) 8.35-8.50 (m, 1H) 7.97-8.11 (m, 1H) 7.31-7.60 (m, 3H) 7.02-7.18 (m, 3H) 6.98 (dd, J=7.48, 5.34 Hz, 1H) 6.03 (d, J=10.68 Hz, 1H) 4.60 (br. s., 2H) 4.40 (br. s., 1H) 3.97 (d, J=14.34 Hz, 1H) 2.80-3.20 (m, 4H) 2.67 (t, J=11.75 Hz, 2H) 2.17-2.40 (m, 2H) 2.08 (t, J=12.67 Hz, 2H) 1.89 (d, J=11.29 Hz, 2H); 19F NMR (470 MHz, CHLOROFORM-d) δ ppm −138.72 (d, J=15.15 Hz, 2F).

reactant | (6S,9R)-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-6,9-diol | 0.244 mmol, 71 mg | FC1=C(C=CC=C1F)[C@]1(CC=2C(=NC=CC2)[C@@H](CC1)O)O | C16H15F2NO2
reactant | 4-nitrophenyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 0.317 mmol, 121 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H17N5O5
reactant | NaHMDS | 0.926 mmol, 0.926 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (6S,9R)-6-(2,3-difluorophenyl)-6-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 131 mg, 100% | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@@](CC=2C1=NC=CC2)(O)C2=C(C(=CC=C2)F)F | C28H27F2N5O4
